US05908858
75(i) 2,4-Difluoro-N-(4-sulfamoylbenzylidene)aniline
Following a procedure similar to that described in Example 1(i), but using 4-sulfamoylbenzaldehyde and 2,4-difluoroaniline as starting materials, the title compound was obtained as a white powder (yield 47%).

reactant | 4-sulfamoylbenzaldehyde | S(N)(=O)(=O)C1=CC=C(C=O)C=C1 | C7H7NO3S
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
product | 2,4-Difluoro-N-(4-sulfamoylbenzylidene)aniline | FC1=C(N=CC2=CC=C(C=C2)S(N)(=O)=O)C=CC(=C1)F | C13H10F2N2O2S
